2194-04-14 08:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2194-4-13**] 11:36 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2194-4-13**] 04:40 PM
   Pt remains RVR to 180's despite adenosine and metoprolol. Pt
   hypotenisve. Pt premedicated w/ fentanyl 25mcg, Versed 1mg. Sync
   cardioverted w/ 50J.
 EKG - At [**2194-4-13**] 04:48 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2194-4-13**] 04:50 PM
   Pt remains SVT and hypotensive. Sync cardioverted w/ 100J as ordered.
 ARTERIAL LINE - START [**2194-4-13**] 07:17 PM
 URINE CULTURE - At [**2194-4-13**] 09:15 PM
   - tachycardic up to 200 with SBP's in low 90s, attempted carotid
   massage with no effect,  adenosine no effect, cardioversion x2 no
   effect, loaded with amiodarone rate slowly came back down; also
   switched from levophed to neo for les cardiac reactivity
   - cards consulted, felt that tachycardia was likely the result of
   sepsis
   - broadened antibx from vanc, ceftriaxone to vanc, cefepime, levo
   - FeNa <1%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2194-4-13**] 08:30 PM
   Levofloxacin - [**2194-4-13**] 10:00 PM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Adenosine - [**2194-4-13**] 06:25 PM
   Metoprolol - [**2194-4-13**] 06:30 PM
   Midazolam (Versed) - [**2194-4-13**] 06:38 PM
   Fentanyl - [**2194-4-13**] 06:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-14**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 71 (58 - 181) bpm
   BP: 117/61(80) {78/45(56) - 128/81(97)} mmHg
   RR: 25 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 16 (11 - 20)mmHg
   CO/CI (Fick): (6.8 L/min) / (3.3 L/min/m2)
   SvO2: 71%
   Total In:
                                                                  2,044 mL
                                                                    502 mL
   PO:
   TF:
   IVF:
                                                                  2,044 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                    340 mL
   Urine:
                                                                    395 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,649 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.52/25/67/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: erythema, 4+ LE edema, doppler pulse
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   11.8 g/dL
   81 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   72 mg/dL
   98 mEq/L
   131 mEq/L
   34.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2194-4-13**]  10:45 AM
                             [**2194-4-13**]  01:41 PM
                             [**2194-4-13**]  10:14 PM
                             [**2194-4-14**]  04:33 AM
                             [**2194-4-14**]  05:07 AM
   WBC
   2.2
   3.6
   5.1
   Hct
   29.0
   31.5
   31.5
   34.0
   Plt
   65
   70
   86
   Cr
   2.4
   2.5
   2.5
   2.5
   TCO2
   21
   Glucose
   75
   71
   100
   81
   Other labs: PT / PTT / INR:26.1/37.5/2.6, CK / CKMB / Troponin-T:267//,
   ALT / AST:69/110, Alk Phos / T Bili:80/1.1, Differential-Neuts:32.0 %,
   Band:18.0 %, Lymph:41.0 %, Mono:8.0 %, Eos:1.0 %, Fibrinogen:401 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 yo male with history of recent pacemaker placement on [**2194-3-20**] for
   complete heart block, atrial fibrillation, myelodysplastic syndrome,
   and hypertension was admitted with fever and hypotension concerning for
   severe sepsis.
   PLAN:
   1. Sepsis
   Patient with evidence of severe sepsis given bandemia, hypotension, and
   acute on chronic renal failure. Sources of infection include cellulitis
   and urinary tract infection given innumerable bacteria on initial UA.
   Pulmonary source appears unlikely in the setting of adequate O2 sat
   with minimal O2 supplementation. Pacer pocket without signs of
   inflammation.
   - follow-up blood and urine cultures at both [**Hospital1 7**] [**Location (un) 250**] and [**Hospital1 19**]
   - start vancomycin and ceftriaxone for broad spectrum coverage of
   hospital-acquired pneumonia and concern for MRSA
   - maintain MAP > 65 with goal CVP of [**11-2**]
   - wean pressors as tolerated
   - follow-up final read of CXR
   - monitor pacer pocket and access lines closely for signs of infection
   2. Acute on Chronic Renal Insufficiency
   Patient with creatinine elevated from baseline, appears most likely
   secondary to pre-renal in the setting of hypotension and creatinine has
   already begun to improve with hydration and pressor support.
   - send urine lytes and renal US
   - consider renal consult if creatinine does not improve with improved
   BP
   - avoid nephrotoxins
   - renally dose meds
   3. Cellulitis
   Left lower extremity with increased erythema, edema, tenderness to
   palpation; although patient has intact neurologic exam and no evidence
   of clear effusion of left ankle.  Appearance on exam is most consistent
   with cellulitis. Given prolonged course and appearance, would certainly
   be atypical for necrotizing fasciitis. LE US was negative for DVT.  Per
   patient report, has not taken any further antibiotics for this and was
   only taking increased lasix dosing.
   - start vancomycin for concern for MRSA given recent hospitalization
   and recent pacemaker placement
   - follow-up blood cultures
   - check CK
   4. Coagulopathy
   Patient with elevated INR of unclear etiology. Differential includes
   most likely nutritional, although additional possibilities include DIC,
   or liver disease.
   - send DIC panel
 fibrinogen, FDP, LDH, haptoglobin
   - give 5 PO Vitamin K
   5. Rheumatoid Arthritis
   Stable
   - will hold etanercept (Enbrel) as it is contraindicated in sepsis
   given risks of immunosuppression
   6. Hypertension
   Patient with a history of hypertension but now clearly with hypotension
   likely in the setting of infection.
   - holding ant-HTN in the setting of severe sepsis
   - hold lasix
   7. Glaucoma
   Stable
   - continue eye drops
   8. BPH
   History of BPH in the past and on terazosin as an outpatient.
   - hold terazosin in the setting of hypotension
   9. Myelodysplastic Syndrome
   Patient with a history of pancytopenia and possibly with a diagnosis of
   myelodysplastic syndrome. All counts appear within range of recent
   hospitalization.
   - obtain further information from PCP
   [**Name Initial (PRE) **] continue B12
   10. Osteoporosis
   Stable
   - continue fosamax  and Vitamin D
   - hold calcium in the setting of acute renal failure
   11. Tremor
   Stable
   - continue Primidone per outpatient regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-4-13**] 11:35 AM
   Multi Lumen - [**2194-4-13**] 11:36 AM
   Arterial Line - [**2194-4-13**] 07:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-04-14 09:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2194-4-13**] 11:36 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2194-4-13**] 04:40 PM
   Pt remains RVR to 180's despite adenosine and metoprolol. Pt
   hypotenisve. Pt premedicated w/ fentanyl 25mcg, Versed 1mg. Sync
   cardioverted w/ 50J.
 EKG - At [**2194-4-13**] 04:48 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2194-4-13**] 04:50 PM
   Pt remains SVT and hypotensive. Sync cardioverted w/ 100J as ordered.
 ARTERIAL LINE - START [**2194-4-13**] 07:17 PM
 URINE CULTURE - At [**2194-4-13**] 09:15 PM
   - tachycardic up to 200 with SBP's in low 90s, attempted carotid
   massage with no effect,  adenosine no effect, cardioversion x2 no
   effect, loaded with amiodarone rate slowly came back down; also
   switched from levophed to neo for les cardiac reactivity
   - cards consulted, felt that tachycardia was likely the result of
   sepsis
   - broadened antibx from vanc, ceftriaxone to vanc, cefepime, levo
   - FeNa <1%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2194-4-13**] 08:30 PM
   Levofloxacin - [**2194-4-13**] 10:00 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Adenosine - [**2194-4-13**] 06:25 PM
   Metoprolol - [**2194-4-13**] 06:30 PM
   Midazolam (Versed) - [**2194-4-13**] 06:38 PM
   Fentanyl - [**2194-4-13**] 06:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-14**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 71 (58 - 181) bpm
   BP: 117/61(80) {78/45(56) - 128/81(97)} mmHg
   RR: 25 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 16 (11 - 20)mmHg
   CO/CI (Fick): (6.8 L/min) / (3.3 L/min/m2)
   SvO2: 71%
   Total In:
                                                                  2,044 mL
                                                                    525 mL
   PO:
   TF:
   IVF:
                                                                  2,044 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                    340 mL
   Urine:
                                                                    395 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,649 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.52/25/67/20/0
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, fixed white exudate on roof of
   mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: pulses palp
 radial and DP (left dopplerable)
   Respiratory / Chest: clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin: 4+ putting edema rt LE. Dopplerable left DP pulse. Erythema up to
   Knee. Rt LE, chronc venous stasis changes.
   Neurologic: grossly intact.
   Labs / Radiology
   86 K/uL
   11.8 g/dL
   81 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   72 mg/dL
   98 mEq/L
   131 mEq/L
   34.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2194-4-13**]  10:45 AM
                             [**2194-4-13**]  01:41 PM
                             [**2194-4-13**]  10:14 PM
                             [**2194-4-14**]  04:33 AM
                             [**2194-4-14**]  05:07 AM
   WBC
   2.2
   3.6
   5.1
   Hct
   29.0
   31.5
   31.5
   34.0
   Plt
   65
   70
   86
   Cr
   2.4
   2.5
   2.5
   2.5
   TCO2
   21
   Glucose
   75
   71
   100
   81
   Other labs: PT / PTT / INR:26.1/37.5/2.6, CK / CKMB / Troponin-T:267//,
   ALT / AST:69/110, Alk Phos / T Bili:80/1.1, Differential-Neuts:32.0 %,
   Band:18.0 %, Lymph:41.0 %, Mono:8.0 %, Eos:1.0 %, Fibrinogen:401 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 yo male with history of recent pacemaker placement on [**2194-3-20**] for
   complete heart block, atrial fibrillation, myelodysplastic syndrome,
   and hypertension was admitted with fever and hypotension with urosepsis
   sepsis.
   1. Sepsis: Patient
s blood and urine from [**Hospital1 **] [**Location (un) 250**] came back today
   for gram negative cocci. Bandemia, hypotension, positive cultures. Also
   with cellulitis on Left lower extremity and small ? infiltrate RLL.  On
   low dose of phenylephrine
   - follow-up blood and urine cultures at both [**Hospital1 7**] [**Location (un) 250**] and [**Hospital1 19**]
   - Continue levaquin and cefepime for double coverage for gram negatives
   (day 1: [**4-13**])
   - continue vancomycin for cellulitis (day 1: [**4-13**])
   - Off pressors, maintain UO >.5cc/kg/hr, and CVP >12
   - continue to follow lactate, increasing since admission
   - wean off phenylephrine today
   - monitor pacer pocket and access lines closely for signs of infection
   2. Tachycardia/SVT: Patient tachycardic to 180
s yesterday. s/p
   metoprolol push, adenosine, finally back down to HR
s in 80s with
   amiodarone drip
   - call EP consult to interrogate pacer
   - continue amiodarone, discontinue IV drip. Will start PO 400mg [**Hospital1 7**] and
   taper over weeks
   3. Acute on Chronic Renal Insufficiency: Patient with creatinine
   elevated from baseline, appears most likely secondary to pre-renal in
   the setting of hypotension and creatinine improving with hydration.
   FeNa: <1%
   - f/u renal US
   - consider renal consult if creatinine does not improve with improved
   BP
   - avoid nephrotoxins
   - renally dose meds
   4. Cellulitis: Left lower extremity with increased erythema, edema,
   tenderness to palpation; although patient has intact neurologic exam
   and no evidence of clear effusion of left ankle. Given prolonged course
   and appearance, would certainly be atypical for necrotizing fasciitis.
   LE US negative for DVT.  Per patient report, has not taken any
   antibiotics for this and was only taking increased lasix dosing.
   - continue vancomycin for concern for MRSA given recent hospitalization
   and recent pacemaker placement (day 1: [**4-13**])
   - follow-up culture sensitivities from [**Hospital1 **] [**Location (un) 250**]
   - f/u CK
   - Consider leg Xray for osteomyelitis
   5. Coagulopathy: Patient with elevated INR of unclear etiology.
   Differential includes DIC or liver disease.  Nutritional  unlikely
   given not improving with vitamin K
   - follow DIC panel (fibrinogen, FDP, LDH, haptoglobin) q8h
   6. Rheumatoid Arthritis: Stable
   - hold etanercept (Enbrel) as it is contraindicated in sepsis given
   risks of immunosuppression
   7. Hypertension: Patient with a history of hypertension but now
   hypotension on pressors in the setting of infection.
   - holding anti-HTN in the setting of severe sepsis
   - hold lasix
   8. Glaucoma: Stable
   - continue eye drops
   9. BPH: History of BPH and elevated PSA in the past and on terazosin as
   an outpatient.
   - hold terazosin in the setting of hypotension
   10. Myelodysplastic Syndrome: Patient with a history of pancytopenia
   and possibly with a diagnosis of myelodysplastic syndrome. All counts
   appear within range of recent hospitalization.
   - obtain further information from PCP
   [**Name Initial (PRE) **] continue B12
   12. Osteoporosis: Stable
   - continue fosamax  and Vitamin D
   - hold calcium in the setting of acute renal failure
   13. Tremor: Stable
   - continue Primidone per outpatient regimen
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-4-13**] 11:35 AM
   Multi Lumen - [**2194-4-13**] 11:36 AM
   Arterial Line - [**2194-4-13**] 07:17 PM
   Prophylaxis:
   DVT: coagulpathic
   Stress ulcer: not indicated
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: still on pressor
   ------ Protected Section ------
   CRITICAL CARE STAFF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Overnight, Mr. [**Known lastname 344**] had tachycardias up to ~200.  These were
   unresponsive to adenosine, vagal maneuvers, and cardioversion.  An
   amiodarone load was begun.  He has had decrease in heart rate now to
   60s, and review of HR trends show a very rapid change, suggesting
   conversion of another rhythm (?MAT) to his present slow AFib.
   Remains on some neosynephrine for his shock.  Outside blood cultures
   show GNR, not yet speciated.
   On exam, his leg remains edematous and red, with some underlying venous
   stasis changes.  It is *not* tender, and there is no crepitus.  The
   joint
s motion is intact.  Has not extended c/w prior reports.
   Septic Shock
 given GNR bacteremia, most likely source is UTI.  Need
   to keep in mind prostatitis as an etiology as well, since this would
   change duration of therapy.  Finally, his leg does appear infected
   (without signs concerning for fasciitis as this point) and we should
   cover for that, as well.  We will therefore continue current broad
   antimicrobial coverage, as well as goal-directed therapy for
   hemodynamic management.
   AFib/SVT
 now in rate-controlled AF on amio.  Consult cards.
   ARF in setting of CKD
 likely related to sepsis
   Coagulopathy
 follow for now, with some concern for DIC
   Other issues as discussed in Dr. [**Last Name (STitle) 350**]
s note.
   Discussed with patient, wife, and daughter.
   Critical [**Name2 (NI) 81**] time: 50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2194-4-14**] 11:34 PM ------

2194-04-15 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2194-4-14**] 11:31 AM
   - transitioned amiodarone drip to po
   - weaned neo to 0.3. tried 500cc NS bolus x 2 but still unable to wean
   pressors off
   - EP c/s -> Felt that tachyarrhythmia was atrial tachycardia likely
   secondary to infection, agree with amiodarone and trea underlying cause
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-4-13**] 10:00 PM
   Cefipime - [**2194-4-14**] 08:00 PM
   Ciprofloxacin - [**2194-4-14**] 08:30 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.4
C (97.5
   HR: 73 (60 - 75) bpm
   BP: 115/60(80) {84/43(58) - 121/65(85)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 11 (4 - 18)mmHg
   CO/CI (Fick): (6.1 L/min) / (3 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  2,360 mL
                                                                    110 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  2,300 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    370 mL
   Urine:
                                                                  1,120 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,240 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: exudate on roof of mouth
   Cardiovascular: Irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Left: 4+, erythema improving slightly
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   9.8 g/dL
   75 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   79 mg/dL
   98 mEq/L
   132 mEq/L
   28.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2194-4-13**]  10:45 AM
                             [**2194-4-13**]  01:41 PM
                             [**2194-4-13**]  10:14 PM
                             [**2194-4-14**]  04:33 AM
                             [**2194-4-14**]  05:07 AM
                             [**2194-4-14**]  02:35 PM
                             [**2194-4-14**]  08:41 PM
                             [**2194-4-14**]  11:32 PM
                             [**2194-4-15**]  04:06 AM
   WBC
   2.2
   3.6
   5.1
   3.4
   3.5
   3.6
   Hct
   29.0
   31.5
   31.5
   34.0
   29
   28.6
   26.9
   28.7
   Plt
   65
   70
   86
   56
   56
   66
   Cr
   2.4
   2.5
   2.5
   2.5
   2.5
   TCO2
   21
   Glucose
   75
   71
   100
   81
   75
   Other labs: PT / PTT / INR:19.4/33.3/1.8, CK / CKMB / Troponin-T:86//,
   ALT / AST:64/89, Alk Phos / T Bili:69/1.2, Differential-Neuts:32.0 %,
   Band:18.0 %, Lymph:41.0 %, Mono:8.0 %, Eos:1.0 %, D-dimer:2199 ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:233
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: Renal U/S: IMPRESSION:
   1.  Findings suggestive of medical renal disease.
   2.  No evidence of obstruction or hydronephrosis.
   Microbiology: Blood: Aerobic bottle:  GRAM NEGATIVE BACILLI
   Urine: URINE CULTURE
   Preliminary
            10-25,000 org/ml  GRAM NEGATIVE BACILLI
   Assessment and Plan
   86 yo male with history of recent pacemaker placement on [**2194-3-20**] for
   complete heart block, atrial fibrillation, myelodysplastic syndrome,
   and hypertension was admitted with fever and hypotension with urosepsis
   sepsis.
   1. Sepsis: Patient
s blood and urine from [**Hospital1 **] [**Location (un) 250**] grew gram negative
   cocci. Bandemia, hypotension, positive cultures. Also with cellulitis
   on Left lower extremity and small ? infiltrate RLL.  On low dose of
   phenylephrine
   - follow-up blood and urine cultures at both [**Hospital1 7**] [**Location (un) 250**] and [**Hospital1 19**],
   prelim: gram
 is pan sensitive.
   - Continue levaquin and cefepime for double coverage for gram negatives
   (day 1: [**4-13**]) until final sensitivities come back. day 3
   - continue vancomycin for cellulitis (day 1: [**4-13**]). Day 3 Dose by level
   - maintain UO >.5cc/kg/hr, and CVP >12
   - lactate trending down, no need to follow
   - wean off phenylephrine today
   - monitor pacer pocket and access lines closely for signs of infection
   - Also consider prostatitis for for positive UA and bacteremia.
   2. Tachycardia/SVT: Patient tachycardic to 180
s yesterday. s/p
   metoprolol push, adenosine, finally back down to HR
s in 80s with
   amiodarone drip
   - EP agrees that tachyarrhythmia was atrial tachycardia secondary to
   infection, agree with amiodarone
   - continue amiodarone PO 400mg [**Hospital1 7**] and taper over weeks
   3. Acute on Chronic Renal Insufficiency: Patient with creatinine
   elevated from baseline, appears most likely secondary to pre-renal in
   the setting of hypotension and creatinine improving with hydration.
   FeNa: <1% on admission. Not improving since initial, patient may have
   some degree of ATN
   - f/u renal US: medical renal disease
   - consider renal consult if creatinine does not improve with improved
   BP
   - avoid nephrotoxins
   - renally dose meds
   - recheck urine lytes. Check urine sediment for casts.
   4. Cellulitis: Left lower extremity with increased erythema, edema,
   tenderness to palpation; although patient has intact neurologic exam
   and no evidence of clear effusion of left ankle. Given prolonged course
   and appearance, would be atypical for necrotizing fasciitis. LE US
   negative for DVT.  Per patient report, has not taken any antibiotics
   for this and was only taking increased lasix dosing.
   - continue vancomycin (day 1: [**4-13**]), dose by level
   - follow-up culture sensitivities from [**Hospital1 **] [**Location (un) 250**]
   - Consider leg Xray for osteomyelitis if dose not improve
   5. Diarrhea: Patient with several episodes of diarrhea since here.
   Considering antibiotic related diarrhea, possible C diff.
   - f/u C diff
   6. Coagulopathy: Patient with elevated INR of unclear etiology.
   Differential includes DIC or liver disease.  Nutritional  possible
   since improving with vitamin K.  DIC panel stable [**2111-4-14**]
   - follow DIC panel (fibrinogen, FDP, LDH, haptoglobin) daily
    Stable issues:
   7. Rheumatoid Arthritis: Stable
   - hold etanercept (Enbrel) as it is contraindicated in sepsis given
   risks of immunosuppression
   8. Hypertension: Patient with a history of hypertension but now
   hypotension on pressors in the setting of infection.
   - holding anti-HTN in the setting of severe sepsis
   - hold lasix
   9. Glaucoma: Stable
   - continue eye drops
   10. BPH: History of BPH and elevated PSA in the past and on terazosin
   as an outpatient.
   - hold terazosin in the setting of hypotension
   11. Myelodysplastic Syndrome: Patient with a history of pancytopenia
   and possibly with a diagnosis of myelodysplastic syndrome. All counts
   appear within range of recent hospitalization.
   - obtain further information from PCP
   [**Name Initial (PRE) **] continue B12
   12. Osteoporosis: Stable
   - continue fosamax  and Vitamin D
   - hold calcium in the setting of acute renal failure
   13. Tremor: Stable
   - continue Primidone per outpatient regimen
   ICU Care
   Nutrition:
   Glycemic Control:  on insulin sliding scale
   Lines:
   18 Gauge - [**2194-4-13**] 11:35 AM
   Multi Lumen - [**2194-4-13**] 11:36 AM
   Arterial Line - [**2194-4-13**] 07:17 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer: not needed
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition: When stable. (still on pressors)

2194-04-15 11:32:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2194-4-14**] 11:31 AM
   Neosynephrine slowly titrated down
   Cardiology felt his tachydysrythmia was ATach
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-4-13**] 10:00 PM
   Cefipime - [**2194-4-14**] 08:00 PM
   Ciprofloxacin - [**2194-4-14**] 08:30 PM
   Vancomycin - [**2194-4-15**] 10:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   asa, calcium, primidone, fosamax, vitamins, eye gtt, vanco,
   ceftriaxone, SQI, cefepime, cipro, amio 400 mg twice a day
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-15**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 70 (60 - 74) bpm
   BP: 112/56(77) {84/43(58) - 121/61(82)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
   CVP: 11 (4 - 11)mmHg
   CO/CI (Fick): (6.1 L/min) / (3 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  2,360 mL
                                                                    727 mL
   PO:
                                                                     60 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  2,300 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    510 mL
   Urine:
                                                                  1,120 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,240 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : 1/4 up)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, leg erythema has retracted a bit compared with marking
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   66 K/uL
   75 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   79 mg/dL
   98 mEq/L
   132 mEq/L
   28.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2194-4-13**]  10:45 AM
                             [**2194-4-13**]  01:41 PM
                             [**2194-4-13**]  10:14 PM
                             [**2194-4-14**]  04:33 AM
                             [**2194-4-14**]  05:07 AM
                             [**2194-4-14**]  02:35 PM
                             [**2194-4-14**]  08:41 PM
                             [**2194-4-14**]  11:32 PM
                             [**2194-4-15**]  04:06 AM
   WBC
   2.2
   3.6
   5.1
   3.4
   3.5
   3.6
   Hct
   29.0
   31.5
   31.5
   34.0
   29
   28.6
   26.9
   28.7
   Plt
   65
   70
   86
   56
   56
   66
   Cr
   2.4
   2.5
   2.5
   2.5
   2.5
   TCO2
   21
   Glucose
   75
   71
   100
   81
   75
   Other labs: PT / PTT / INR:19.4/33.3/1.8, CK / CKMB / Troponin-T:86//,
   ALT / AST:64/89, Alk Phos / T Bili:69/1.2, Differential-Neuts:75.0 %,
   Band:0.0 %, Lymph:11.0 %, Mono:13.0 %, Eos:1.0 %, D-dimer:2199 ng/mL,
   Fibrinogen:424 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:233
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Microbiology: GNR in blood at [**Location (un) 250**]; ID pending
   Assessment and Plan
   86-year-old man with septic shock from gram-negative bacteremia, likely
   due to urinary source.
   Septic Shock
 given GNR bacteremia, most likely source is UTI.
   -- follow OSH cx for sensitivities, to permit narrowing of ABX
   -- vanco for cellulitis.  Improving.  [**Month (only) 51**] need higher dose of vanco --
   will review with pharmacy.
   -- rectal exam: ?prostatitis
   Atrial dysrhythmias
   - initial rhythm was ATach
 now in rate-controlled AF on amio.
   ARF in setting of CKD
 likely related to sepsis
   -- examine sediment today
   Coagulopathy

 improvement suggests nutritional component
   Other issues as noted in ICU team note from today.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2194-4-13**] 11:35 AM
   Multi Lumen - [**2194-4-13**] 11:36 AM
   Arterial Line - [**2194-4-13**] 07:17 PM
   Prophylaxis:
   DVT: Boots(start SQH today)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2194-04-16 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pressors weaned
   - urine spin showing granular casts, some red cells, not no red cell
   casts
   - cipro d/c'd (kept cefepime, [**2-22**] sensitivities)
   - 10 beat run of VT at 4pm yesterday, asyptomatic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-4-13**] 10:00 PM
   Ciprofloxacin - [**2194-4-14**] 08:30 PM
   Vancomycin - [**2194-4-15**] 10:00 AM
   Cefipime - [**2194-4-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-4-16**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 78) bpm
   BP: 118/55(78) {88/45(61) - 133/66(88)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 74 Inch
    CVP: 12 (10 - 26)mmHg
   Total In:
                                                                    989 mL
                                                                     63 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                    639 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    320 mL
   Urine:
                                                                  1,220 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -231 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: nl s1s2
   Peripheral Vascular: all pulses palpable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l L>R, Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: 4+, erythema improving
   Skin:  Warm
   Neurologic: Attentive,
   Labs / Radiology
   59 K/uL
   9.7 g/dL
   88 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.5 mEq/L
   84 mg/dL
   102 mEq/L
   135 mEq/L
   27.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2194-4-13**]  10:45 AM
                             [**2194-4-13**]  01:41 PM
                             [**2194-4-13**]  10:14 PM
                             [**2194-4-14**]  04:33 AM
                             [**2194-4-14**]  05:07 AM
                             [**2194-4-14**]  02:35 PM
                             [**2194-4-14**]  08:41 PM
                             [**2194-4-14**]  11:32 PM
                             [**2194-4-15**]  04:06 AM
                             [**2194-4-16**]  04:11 AM
   WBC
   2.2
   3.6
   5.1
   3.4
   3.5
   3.6
   4.6
   Hct
   29.0
   31.5
   31.5
   34.0
   29
   28.6
   26.9
   28.7
   27.9
   Plt
   65
   70
   86
   56
   56
   66
   59
   Cr
   2.4
   2.5
   2.5
   2.5
   2.5
   2.4
   TCO2
   21
   Glucose
   75
   71
   100
   81
   75
   88
   Other labs: PT / PTT / INR:17.5/30.8/1.6, CK / CKMB / Troponin-T:86//,
   ALT / AST:64/89, Alk Phos / T Bili:69/1.2, Differential-Neuts:75.0 %,
   Band:0.0 %, Lymph:11.0 %, Mono:13.0 %, Eos:1.0 %, D-dimer:2199 ng/mL,
   Fibrinogen:445 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:160
   IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology:  AMOX/CLAV  S
    AMPICILLIN  R
    CEFAZOLIN   S
    CEFTAZIDIME   S
    CEFTRIAXONE   S
    CEFUROXIME     S
    CIPROFLOXACIN    S
    GENTAMICIN          S
   LEVOFLOXACIN        S
   PIPERACILLIN            S
   TETRACYCLINE         I
    TRIM/SULFA           S
   ECG: 10 beat run of VT at 4pm yesterday
   Assessment and Plan
   86 yo male with history of recent pacemaker placement on [**2194-3-20**] for
   complete heart block, atrial fibrillation, myelodysplastic syndrome,
   and hypertension was admitted with fever and hypotension with klebiella
   urosepsis sepsis.
   1. Sepsis: Patient
s blood and urine from [**Hospital1 **] [**Location (un) 250**] grew Klebsiella.
   Bandemia, hypotension now resolved. positive cultures. Also with
   cellulitis on Left lower extremity and small ? infiltrate RLL.  Now off
   pressors
   - follow-up blood and urine cultures at both [**Hospital1 7**] [**Location (un) 250**] and [**Hospital1 19**]
   [**Location (un) 250**], pan sensitive klebsiella
   - levaquin d/ced [**2194-4-16**]
   - d/c cefepime  (day 1: [**4-13**]) day 4, and start ceftrixone today to
   complete 14 day course. (today day [**5-1**])
   - continue vancomycin for cellulitis (day 1: [**4-13**]). Day 4, check daily
   for now, renal function changing.
   - maintain UO >.5cc/kg/hr, and CVP >12
   - lactate trending down, no need to follow
   - off phenylephrine [**3-17**] 7pm
   - prostatitis unlikely since nontender on prostate exam. (patient with
   hx of prostate radiation for CA)
   - Low threshold for TEE if recurrant fever, bandemia, bacteremia given
   new pacer implantation
   - Will need PICC to complete 2 week courses of Ceftriaxone and Vanco
   - d/c rt IJ when PICC placed.
   2. Tachycardia/SVT: Patient tachycardic to 180
s [**4-13**]. s/p metoprolol
   push, adenosine, finally back down to HR
s in 80s with amiodarone
   - Talked to Dr. [**Last Name (STitle) 361**], his cardiologist, he suggests takign off
   amiodaone
   - EP agrees that tachyarrhythmia was atrial tachycardia secondary to
   infection, discontinue amiodarone, now in sinus and tachyarrhythmia in
   setting of acute sepsis
   - monitor on telemetry on floor
   3. Acute on Chronic Renal Insufficiency: Patient with creatinine
   elevated from baseline, appears most likely secondary to pre-renal in
   the setting of hypotension and creatinine improving with hydration.
   FeNa: <1% on admission, and on repeat [**2194-4-15**].  Not improving since
   initial, patient may have some degree of ATN, granular casts
   - renal US: medical renal disease
   - consider renal consult if creatinine does not improve with improved
   BP
   - avoid nephrotoxins
   - renally dose meds
   4. Cellulitis: Left lower extremity with increased erythema, edema,
   tenderness to palpation; although patient has intact neurologic exam
   and no evidence of clear effusion of left ankle. Given prolonged course
   and appearance, would be atypical for necrotizing fasciitis. LE US
   negative for DVT.  Per patient report, has not taken any antibiotics
   for this and was only taking increased lasix dosing. Improving
   - continue vancomycin (day 1: [**4-13**]), dose by level
   - follow-up cultures
   - Consider leg Xray for osteomyelitis if dose not improve
   5. Diarrhea: Patient with several episodes of diarrhea since here.
   Considering antibiotic related diarrhea, possible C diff.
   - f/u C diff
   6. Coagulopathy: Patient with elevated INR of unclear etiology.
   Differential includes DIC or liver disease.  Nutritional  possible
   since improving with vitamin K.  DIC panel stable [**2111-4-14**]
   - DIC panel (fibrinogen, FDP, LDH, haptoglobin) has been stable, no
   need to continue to follow
   - follow coags, slowly improving.
    Stable issues:
   7. Rheumatoid Arthritis: Stable
   - hold etanercept (Enbrel) as it is contraindicated in sepsis given
   risks of immunosuppression
   8. Hypertension: Patient with a history of hypertension but now
   hypotension on pressors in the setting of infection.
   - holding anti-HTN in the setting of severe sepsis
   - hold lasix
   9. Glaucoma: Stable
   - continue eye drops
   10. BPH: History of BPH and elevated PSA in the past and on terazosin
   as an outpatient.
   continue home meds
   11. Myelodysplastic Syndrome: Patient with a history of pancytopenia
   and possibly with a diagnosis of myelodysplastic syndrome. All counts
   appear within range of recent hospitalization.
   - obtain further information from PCP
   [**Name Initial (PRE) **] continue B12
   12. Osteoporosis: Stable
   - continue fosamax  and Vitamin D
   - hold calcium in the setting of acute renal failure
   13. Tremor: Stable
   - continue Primidone per outpatient regimen
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   18 Gauge - [**2194-4-13**] 11:35 AM
   Multi Lumen - [**2194-4-13**] 11:36 AM
   Arterial Line - [**2194-4-13**] 07:17 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  not need
   Code status:  Full
   Disposition: can go later today